US07691882B2
4-((5-Chloro-furan-2-yl)-hydroxy-methyl)-benzonitrile
To a mixture of 4-iodobenzonitrile (3.0 g, 13 mmol) and tetrahydrofuran (40 mL) was added dropwise isopropyl magnesium chloride (1-2 M diethyl ether solution, 11 mL, 11-22 mmol) at −78° C., which was stirred for 1 hour at 0° C. The reaction mixture was cooled to −78° C., 5-chloro-2-furaldehyde (2.2 g, 17 mmol) was added at that temperature, and the temperature was gradually raised to 0° C. Following 30 minutes of stirring at 0° C., saturated aqueous ammonium chloride solution, water and ethyl acetate were added to extract the reaction mixture. The organic layer was washed successively with saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride, and the solvent was evaporated under a reduced pressure. Ethyl acetate was added to the residue, which was then filtered with NH silica gel. The filtrate was concentrated under a reduced pressure to obtain the title compound (3.2 g) as a crude product. This compound was used in the subsequent reaction without further purification.

reactant | 4-iodobenzonitrile | 13 mmol, 3.0 g | IC1=CC=C(C#N)C=C1 | C7H4IN
reactant | isopropyl magnesium chloride | 11-22 mmol, 1-2 M, 11 mL | C(C)(C)[Mg]Cl
reactant | 5-chloro-2-furaldehyde | 17 mmol, 2.2 g | ClC1=CC=C(O1)C=O | C5H3ClO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 4-((5-Chloro-furan-2-yl)-hydroxy-methyl)-benzonitrile | 3.2 g | ClC1=CC=C(O1)C(C1=CC=C(C#N)C=C1)O | C12H8ClNO2
